US08563617B2
248.3 1-[7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalen-2-yl]methanamine
7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile (340 mg, 1.12 mmol) was dissolved in dry methanol (20 mL) under a nitrogen atmosphere. Raney nickel (900 mg, 3.36 mmol) was added under nitrogen and the reaction mixture stirred at room temperature for 48 h under an atmosphere of hydrogen. Methanol (20 mL) and dichloromethane (30 mL) were added. After stirring at room temperature for 20 minutes the catalyst was removed by filtration and the solvent evaporated in vacuo. Yield: 338 mg (1.10 mmol, 98%).

reactant | 7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 1.12 mmol, 340 mg | N1(CCC1)C1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)C#N | C21H22N2
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Raney nickel | 3.36 mmol, 900 mg | [Ni] | Ni
solvent | Methanol | 20 mL | CO | CH4O
product | 1-[7-(Azetidin-1-yl)-8-benzyl-5,6,7,8-tetrahydronaphthalen-2-yl]methanamine | N1(CCC1)C1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)CN | C21H26N2
